US08440651B2
2-Chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carbaldehyde (0.56 g) was reacted with Oxone (1.1 eq) in DMF (10 mL) overnight. The DMF was removed under vacuum and the reaction mixture was brought up into water. The pH was adjusted to 2-3 and product crashed out of solution. The solid was collected by filtration and dried to afford 0.45 g of 2-chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxylic acid as a light yellow solid.

reactant | 2-Chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carbaldehyde | 0.56 g | ClC=1N=C(C2=C(N1)C=CC(=N2)C=O)N2CCOCC2 | C12H11ClN4O2
reactant | Oxone | 1.1 eq | OOS(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxylic acid | 0.45 g | ClC=1N=C(C2=C(N1)C=CC(=N2)C(=O)O)N2CCOCC2 | C12H11ClN4O3
